US07022707B2
(RS) 4-Tert-butoxycarbonyl-2-ethylpiperazine:
to a stirred solution of 2-ethylpiperazine dihydrochloride (J. Org. Chem., 1987, 52(6), 1045, 5.0 g) and triethylamine (9.3 ml) in DCM (50 ml) at 0° C. was added di-tert-butyl-dicarbonate (6.5 g). The mixture was warmed to room temperature, stirred for 2 h, washed successively with water, dilute sodium hydroxide solution, water and brine then dried (sodium sulfate) and concentrated in vacuo to give the product as a clear oil (5.1 g); δH (400 MHz, CDCl3) 3.78 (1H, m), 3.71 (1H, d, J 12.5 Hz), 2.81 (1H, dt, J 11.5, 2.5 Hz), 2.69 (1H, t, J 10.5 Hz), 2.48 (1H, td, J 11.5, 3 Hz), 2.29 (1H, m), 2.17 (1H, m), 1.39 (9H, s), 1.31 (1H, dd, J 7.5, 6 Hz), 1.25 (1H, dd, J 7.5, 6 Hz) and 0.87 (3H, t, J 7 Hz); GC (150° C.-10 min-320° C.) 93%, 5.13 min.

reactant | 2-ethylpiperazine dihydrochloride | 5.0 g | Cl.Cl.C(C)C1NCCNC1
reactant | triethylamine | 9.3 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 6.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (RS) 4-Tert-butoxycarbonyl-2-ethylpiperazine | 5.1 g | C(C)(C)(C)OC(=O)N1CC(NCC1)CC | C11H22N2O2
